US05780470
1-Cyclopropylcarbonyl-4-(6-methoxy-indan-1-yl)piperazine
An intimate mixture of 6-methoxy-1-indanone (1.6 g, 10 mmol), 1-cyclopropanecarbonylpiperazine (1.5 g, 10 mmol) and titanium(IV) isopropoxide (4 mL, 12 mmol) was heated on the steam bath for 10 minutes. Additional titanium isopropoxide (1 mL, 3 mmol) was added and the mixture stirred for 20 hr. The material was dissolved in ethanol and sodium borohydride added (0.9 g, 22 mmol). After stirring for 1 hr the solution was heated to reflux and more sodium borohydride (0.9 g, 22 mmol) added. When solution had occurred 15% NaOH solution (50 mL) was added. The insoluble material was removed and discarded. The solution was concentrated in vacuo and the residue mixed with ether. The mixture was washed with water and 1N HCl solution. The acid washes were made basic and the mixture was extracted with ether to give the product as an oil which was converted to the fumarate salt and crystallized from acetone to give the salt (1.8 g).

reactant | 6-methoxy-1-indanone | 10 mmol, 1.6 g | COC1=CC=C2CCC(C2=C1)=O | C10H10O2
reactant | 1-cyclopropanecarbonylpiperazine | 10 mmol, 1.5 g | C1(CC1)C(=O)N1CCNCC1 | C8H14N2O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | sodium borohydride | 22 mmol, 0.9 g | [BH4-].[Na+]
reactant | NaOH | 50 mL | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
catalyst | titanium(IV) isopropoxide | 12 mmol, 4 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
catalyst | titanium isopropoxide | 3 mmol, 1 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 1-Cyclopropylcarbonyl-4-(6-methoxy-indan-1-yl)piperazine | C1(CC1)C(=O)N1CCN(CC1)C1CCC2=CC=C(C=C12)OC | C18H24N2O2
